US04594343
3-(Cyanodiphenylmethyl)-1-pyrrolidinecarboxylic acid, phenyl ester
To a solution of 47 g (0.13 mole) of α-(1-benzyl-3-pyrrolidinyl)-α,α-diphenylacetonitrile and 10.58 g (0.13 mole) of pyridine in 400 ml of methylene chloride was added, dropwise at 0° C., 62.7 g (0.39 mole) of phenyl chloroformate. The reaction mixture was refluxed for 16 hr. The mixture was cooled and washed 3 times with water and twice with dilute sodium hydroxide solution. The methylene chloride layer was then dried, filtered and concentrated in vacuo. The resulting solid was recrystallized twice from ethyl acetate to give 23 g (50%) of title compound, m.p. 154°-155° C.

reactant | α-(1-benzyl-3-pyrrolidinyl)-α,α-diphenylacetonitrile | 0.13 mole, 47 g | C(C1=CC=CC=C1)N1CC(CC1)C(C#N)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H24N2
reactant | pyridine | 0.13 mole, 10.58 g | N1=CC=CC=C1 | C5H5N
reactant | phenyl chloroformate | 0.39 mole, 62.7 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
product | 3-(Cyanodiphenylmethyl)-1-pyrrolidinecarboxylic acid, phenyl ester | 23 g, 50% | C(#N)C(C1CN(CC1)C(=O)OC1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H22N2O2
